US06900227B2
Preparation of 3-chlorophenyl-4-fluorophenyl-dichloromethane
From 3-chlorobenzotrifluoride (180 mg, 1 mmol), AlCl3 (400 mg, 3 mmol) and fluorobenzene (96 mg, 1 mmol), light yellow oil (384 mg, 132% crude).

reactant | 3-chlorobenzotrifluoride | 1 mmol, 180 mg | ClC=1C=C(C=CC1)C(F)(F)F | C7H4ClF3
reactant | AlCl3 | 3 mmol, 400 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | fluorobenzene | 1 mmol, 96 mg | FC1=CC=CC=C1 | C6H5F
product | 3-chlorophenyl-4-fluorophenyl-dichloromethane | ClC=1C=C(C=CC1)C(Cl)(Cl)C1=CC=C(C=C1)F | C13H8Cl3F
